US09422247B2
4-Ethylpyrimidin-2-ol-1-oxide hydrochloride
0.388 mol (25.9 g) hydroxy urea were dissolved in 195 ml 2 M HCl, 80 ml of methanol were added and 0.388 mol (56.7 g) of 1,1-dimethoxypentane-3-on (62% content in product mixture) were added dropwise under cooling with the internal temperature being maintained at −6 to −7° C. The solution was thawed to room temperature in an ice bath and stirred for 1 h, then evaporated until dryness. The residue was suspended with 100 ml of acetone, the mixture was cooled to below 0° C. in an ice/ethanol bath, the solid filtered off and washed with little ice-cold acetone. After drying 32.6 g crude product were obtained. The crude product was heated until boiling with 200 ml ethanol, hot filtered and slowly cooled to −18° C. The precipitated solid was filtered off, washed with a little amount of ethanol and dried. 11.7 g of the title compound were obtained.

reactant | hydroxy urea | 0.388 mol, 25.9 g | ONC(=O)N | CH4N2O2
reactant | methanol | 80 ml | CO | CH4O
reactant | 1,1-dimethoxypentane-3-on | 0.388 mol, 56.7 g | COC(CC(CC)=O)OC | C7H14O3
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | HCl | 2 M, 195 ml | Cl | ClH
product | 4-Ethylpyrimidin-2-ol-1-oxide hydrochloride | 11.7 g | Cl.C(C)C=1N=C([N+](=CC1)[O-])O | InChI=1S/C6H8N2O2.ClH/c1-2-5-3-4-8(10)6(9)7-5;/h3-4H,2H2,1H3,(H,7,9);1H
